US08426411B2
Step J: 2-ethyl-4-hydroxycyclopentanecarboxylic acid
Aqueous sodium hydroxide (1N, 32.4 mL, 32.4 mmol) was added to a scalemic mixture enriched in (1S,2R,4R)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate (3.02 g, 16.21 mmol) and the reaction mixture was stirred at ambient temperature overnight. Ether (15 mL) was added and the layers were separated. The aqueous layer was cooled to about 0° C. Aqueous HCl (5N) was slowly added to bring pH to about 1. The aqueous suspension was extracted with EtOAc (4×40 mL). The combined organic layers were washed with brine (50 mL), dried over anhydrous MgSO4, filtered and concd under reduced pressure to give a scalemic mixture enriched in (1S,2R,4R)-2-ethyl-4-hydroxycyclopentanecarboxylic acid (2.56 g, 100%): LC/MS (Table 1, Method b) Rt=1.36 min; MS m/z: 157 (M−H)−.

reactant | sodium hydroxide | 32.4 mmol, 1N, 32.4 mL | [OH-].[Na+]
reactant | (1S,2R,4R)-ethyl 2-ethyl-4-hydroxycyclopentanecarboxylate | 16.21 mmol, 3.02 g | C(C)[C@H]1[C@H](C[C@@H](C1)O)C(=O)OCC | C10H18O3
reactant | Ether | 15 mL | CCOCC | C4H10O
solvent | (1S,2R,4R)-2-ethyl-4-hydroxycyclopentanecarboxylic acid | 2.56 g | C(C)[C@H]1[C@H](C[C@@H](C1)O)C(=O)O | C8H14O3
product | 2-ethyl-4-hydroxycyclopentanecarboxylic acid | C(C)C1C(CC(C1)O)C(=O)O | C8H14O3
